US05166188
N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-1,5-diaminopentane
2.5 g of N-methyl-(2-(3,4-dimethoxyphenyl)ethyl)amine was dissolved in 25 ml of N,N-dimethylformamide, followed by the addition of 1.95 g of anhydrous potassium carbonate and 1.65 ml of 4-bromovaleronitrile. The obtained mixture was reacted at a room temperature for 16 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated aqueous solution of common salt, dried over anhydrous potassium carbonate and distilled to remove the solvent. 40 ml of ethanol, 3.2 ml of concentrated hydrochloric acid and 0.3 g of platinum oxide were added to the obtained residue to carry out hydrogenation at a room temperature under 3 kg/cm2 for 6 hours. The catalyst was filtered out and the filtrate was concentrated under a reduced pressure, followed by the addition of concentrated aqueous ammonia. The obtained mixture was extracted with chloroform. The chloroform phase was dried over anhydrous potassium carbonate and distilled to remove the solvent. The residue was purified by silica gel column chromatography [solvent: dichloromethane/methanol/concentrated aqueous ammonia (100:10:1)] to obtain 1.95 g of the title compound as a yellow oil (yield: 55%).

reactant | N-methyl-(2-(3,4-dimethoxyphenyl)ethyl)amine | 2.5 g | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
reactant | potassium carbonate | 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromovaleronitrile | 1.65 ml | BrC(CCC#N)C | C5H8BrN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-1,5-diaminopentane | 1.95 g, yield: 55% | CN(CCCCCN)CCC1=CC(=C(C=C1)OC)OC | C16H28N2O2
